US06479670B1
4.1. Preparation of (E)-4-[2-(5-ethoxymethyl-5-methyl-2,3,4,5-tetrahydrobenzo[b]thiepin-8-yl)-vinyl]-benzoic acid
85 mg of NaH (ca. 1.4 eq., 50% in mineral oil) was added to a solution of 534 mg (1.4 eq.) of 4-(diethoxyphosphorylmethyl)-benzoic acid ethyl ester in 1.9 ml of abs. DMF at 0° C. The mixture was stirred at 0° C. for 0.5 h and at room temperature for 1.5 h. After cooling to 0° C., 336 mg (1.27 mmol) of 5-ethoxymethyl-5-methyl-2,3,4,5-tetrahydrobenzo[b]thiepine-8-carbaldehyde, dissolved in 1 ml of DMF, was added and allowed to react for 2 h at room temperature. The mixture was then poured onto crushed ice, extracted twice with diethylether, the organic phase was washed with water, dried over magnesium sulfate, filtrated and evaporated to dryness. Purification of the residue by flash chromatography (silica gel, hexane/ethylacetate 95/5) afforded 409 mg of pure, colorless title compound.

reactant | NaH | 85 mg, ca. 1.4 eq. | [H-].[Na+]
reactant | 4-(diethoxyphosphorylmethyl)-benzoic acid ethyl ester | 534 mg, 1.4 eq. | C(C)OC(C1=CC=C(C=C1)CP(=O)(OCC)OCC)=O | C14H21O5P
reactant | 5-ethoxymethyl-5-methyl-2,3,4,5-tetrahydrobenzo[b]thiepine-8-carbaldehyde | 1.27 mmol, 336 mg | C(C)OCC1(C2=C(SCCC1)C=C(C=C2)C=O)C | C15H20O2S
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (E)-4-[2-(5-ethoxymethyl-5-methyl-2,3,4,5-tetrahydrobenzo[b]thiepin-8-yl)-vinyl]-benzoic acid | C(C)OCC1(C2=C(SCCC1)C=C(C=C2)/C=C/C2=CC=C(C(=O)O)C=C2)C | C23H26O3S
